* two-stage miller ota with rz nulling resistor
.options gmin=1e-12 reltol=1e-4 abstol=1e-13 vntol=1e-7 itl1=500 noacct

.model NMOS NMOS (LEVEL=1 VTO=0.7 KP=110u GAMMA=0.4 LAMBDA=0.04
+ TOX=20n PHI=0.7 CGSO=0.4n CGDO=0.4n CJ=0.4m CJSW=0.8n MJ=0.5)
.model PMOS PMOS (LEVEL=1 VTO=-0.7 KP=50u GAMMA=0.57 LAMBDA=0.05
+ TOX=20n PHI=0.8 CGSO=0.4n CGDO=0.4n CJ=0.4m CJSW=0.8n MJ=0.5)

Vdd vdd 0 3.3
Vcm cm 0 1.2
Vinp inp cm AC 0.5
Vinn inn cm AC -0.5

* --- input differential pair ---
M1 n1 inp tail 0 NMOS W={W1} L={L1}
M2 n2 inn tail 0 NMOS W={W1} L={L1}
* --- pmos current mirror load ---
M3 n1 n1 vdd vdd PMOS W={W3} L={L3}
M4 n2 n1 vdd vdd PMOS W={W3} L={L3}
* --- tail current source + bias mirror ---
M5 tail nbias 0 0 NMOS W={W5} L={L5}
M8 nbias nbias 0 0 NMOS W={W5} L={L5}
Ibs vdd nbias {Ib}
* --- second stage ---
M6 out n2 vdd vdd PMOS W={W6} L={L6}
M7 out nbias 0 0 NMOS W={W7} L={L7}
* --- miller compensation ---
Cc n2 outx {Cc}
Rz outx out {Rz}
CL out 0 2p

.control
set noaskquit
op
let pwr = abs(i(Vdd)) * 3.3
echo "$&pwr" > power.txt
ac dec 60 1 10G
let gdb = db(v(out))
let phs = 180/pi * ph(v(out))
meas ac dcgain FIND gdb AT=10
meas ac phdc FIND phs AT=10
meas ac ugf WHEN gdb=0 FALL=1
meas ac phugf FIND phs WHEN gdb=0 FALL=1
echo "$&dcgain $&ugf $&phugf $&phdc" > ac.txt
quit
.endc
.end
